US07338960B2
3-Bromo-N,2-dimethyl-N-(methyloxy)benzamide
To a solution of 3-bromo-2-methyl benzoic acid (430 mg, 2.00 mmol) in anhydrous DCM, under nitrogen at ambient temperature was added N,O-dimethylhydroxylamine hydrochloride (215 mg, 2.20 mmol), pyridine (0.18 mL, 2.23 mmol) and CBr4 (662 mg, 2.00 mmol). Triphenyl phosphine (576 mg, 2.20 mmol) was added portion-wise over 10 min and the resulting mixture stirred at ambient temperature for 2.5 h. The reaction mixture then reduced under vacuum and purified by SPE (silica, 10 g cartridge) eluting with cyclohexane:EtOAc (gradient 99:1 to 4:1) to afford the title compound as a colourless oil (310 mg).

reactant | 3-bromo-2-methyl benzoic acid | 2.00 mmol, 430 mg | BrC=1C(=C(C(=O)O)C=CC1)C | C8H7BrO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.20 mmol, 215 mg | Cl.CNOC
reactant | pyridine | 2.23 mmol, 0.18 mL | N1=CC=CC=C1 | C5H5N
reactant | CBr4 | 2.00 mmol, 662 mg | C(Br)(Br)(Br)Br | CBr4
reactant | Triphenyl phosphine | 2.20 mmol, 576 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Bromo-N,2-dimethyl-N-(methyloxy)benzamide | 310 mg | BrC=1C(=C(C(=O)N(OC)C)C=CC1)C | C10H12BrNO2
